US04348534
German Laid-Open Application DOS 2,720,654 discloses that alkanecarboxylic acid derivatives, for example tert.-butyl 4-chlorophenoxyacetate, can be reacted with N-bromosuccinimide in the presence of a solvent and of a source of free radicals, such as dibenzoyl peroxide or azo-bis-isobutyronitrile, to give tert.-butyl bromo-(4-chlorophenoxy)-acetate. In the case of tert.-butyl 4-chlorophenoxyacetate it is stated that a reaction time of 2 hours is required and a yield of 76 percent is obtained. If the process is carried out with the corresponding propionic acid esters, especially on an industrial scale, substantially longer reaction times, for example from 8 to 15 hours, are required to obtain yields of from 60 to 80% of theory.

reactant | tert.-butyl 4-chlorophenoxyacetate | ClC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H15ClO3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | azo-bis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | tert.-butyl bromo-(4-chlorophenoxy)-acetate | yield of 76 percent | BrC(C(=O)OC(C)(C)C)OC1=CC=C(C=C1)Cl | C12H14BrClO3
